US08808703B2
Step 1: (R)-((2,3-bis(dodecyloxy)propoxy)methyl)benzene
To a solution of (R)-3-(benzyloxy)propane-1,2-diol (1 eq) in THF (0.3 M) was added n-tetrabutylammonium bromide (0.2 eq), 1-bromododecane (4 eq) and potassium hydroxide (5 eq). The reaction mixture was stirred at room temperature overnight. The mixture was diluted with ethyl ether, washed with water, 1 N hydrochloric acid, water, and brine, dried over anhydrous Na2SO4, and concentrated en vaccuo. The crude mixture was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-10% EtOAc/Hex to give the product.

reactant | (R)-3-(benzyloxy)propane-1,2-diol | 1 eq | C(C1=CC=CC=C1)OC[C@@H](CO)O | C10H14O3
reactant | 1-bromododecane | 4 eq | BrCCCCCCCCCCCC | C12H25Br
reactant | potassium hydroxide | 5 eq | [OH-].[K+]
solvent | THF | 0.3 M | C1CCOC1 | C4H8O
solvent | ethyl ether | C(C)OCC | C4H10O
product | (R)-((2,3-bis(dodecyloxy)propoxy)methyl)benzene | C(CCCCCCCCCCC)O[C@@H](COCC1=CC=CC=C1)COCCCCCCCCCCCC | C34H62O3
